US07053071B2
Step 1: Ethyl 4-acetoxy-6-bromonaphthalene-2-carboxylate.
A mixture of 24.60 g (132.9 mmol) of 4-bromobenzaldehyde 30.66 g (176.0 mmol) of diethyl succinate in 20 ml of THF was added 200.0 ml of potassium tert-butoxide in 1.0 M 2-methyl-2-propanol over a period of 20 minutes. The reaction mixture was reflux overnight, then cooled to room temperature. The mixture was extracted with EtOAc, washed with 10% HCl, brine, and water, dried (MgSO4), filtered, and concentrated to afford a yellow-brown oil. The mixture in 150.0 ml of acetic anhydride was added 10.0 g of sodium acetate and was reflux overnight, then cooled to room temperature. The mixture was extracted with EtOAc, washed with 10% HCl, brine, and water, dried (MgSO4), filtered, and concentrated. Flash column chromatography (20% EtOAc/hexane) yielded a brown oil. (5.10 g, 11% yield): Rf0.22 (10% EtOAc/hexane); 1H NMR (400 MHz, CDCl3) δ 1.43 (t, J=7.2 Hz, 3, CH3), 2.60 (s, 3, CH3), 4.42 (q, J=7.2 Hz, 2, CH2), 7.40 (d, J=2.4 Hz, 1, ArH), 7.65 (dd, J=7.6, 2.4 Hz, 1, ArH), 7.84 (d, J=8.0 Hz, 1, ArH), 8.05 (s, 1, ArH), 8.46 ppm (s, 1, ArH).

reactant | 4-bromobenzaldehyde | 132.9 mmol, 24.60 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | diethyl succinate | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | potassium tert-butoxide | 200.0 ml | CC(C)([O-])C.[K+]
reactant | sodium acetate | 10.0 g | C(C)(=O)[O-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | 2-methyl-2-propanol | 1.0 M | CC(C)(C)O | C4H10O
solvent | acetic anhydride | 150.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | Ethyl 4-acetoxy-6-bromonaphthalene-2-carboxylate | 11% yield | C(C)(=O)OC1=CC(=CC2=CC=C(C=C12)Br)C(=O)OCC | C15H13BrO4
